US05677373
To 185 g of the dispersion of sulfonated monodisperse seed particles from Example 1, with a dry weight of particles equal to 1 g, was added 1.8 l of water, 225 g of resorcinol and 680 g of 37% formaldehyde solution. The mixture was heated at 65° C. under stirring for 2.5 hours to give monodisperse resorcinol-formaldehyde particles of size 18 μm. The reaction mixture was diluted with dioxane and the particles allowed to settle overnight. The particles were redispersed and sedimented several times in water until the water phase was free of fines. Finally the particles were freeze dried.

reactant | resorcinol | 225 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | formaldehyde | 680 g | C=O | CH2O
solvent | water | 1.8 l | O | H2O
product | resorcinol-formaldehyde | C1(O)=C(C(O)=CC=C1)C=O | C7H6O3
